US08372823B2
Methyl 6-(2-(1-hydroxy-3-(4-(phenoxymethyl)phenyl)propyl)oxazol-5-yl)pyridine-2-carboxylate (121 mg, 0.272 mmol) was dissolved in anhydrous CH2Cl2 (3 mL) and Dess-Martin periodinane (173 mg, 0.408 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 2.5 h. The addition of saturated aqueous NaHCO3 quenched the reaction and the organic layer was washed with saturated aqueous Na2S2O3 then saturated aqueous NaCl. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 0-1% MeOH/CH2Cl2) to provide methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate as a yellow oil (109 mg, 91%): 1H NMR (CDCl3, 600 MHz) δ 8.10 (d, 1H, J=7.8 Hz), 8.00 (d, 2H, J=6.6 Hz), 7.95 (t, 1H, J=7.8 Hz), 7.36 (d, 2H, J=7.9 Hz), 7.29-7.27 (m, 4H), 6.97-6.93 (m, 3H), 5.02 (s, 2H), 4.02 (s, 3H), 3.47 (t, 2H, J=7.6 Hz), 3.11 (t, 2H, J=7.6 Hz); 13C NMR (CDCl3, 150 MHz) δ 187.2, 165.0, 158.7, 157.3, 152.3, 148.4, 146.4, 140.0, 138.2, 135.0, 129.4, 128.6, 127.9, 127.7, 125.1, 123.2, 120.8, 114.7, 69.6, 53.0, 40.5, 29.3; HR ESI-TOF m/z 443.1606 (M+H+, C26H22N2O3, requires 443.1601).

reactant | Methyl 6-(2-(1-hydroxy-3-(4-(phenoxymethyl)phenyl)propyl)oxazol-5-yl)pyridine-2-carboxylate | 0.272 mmol, 121 mg | OC(CCC1=CC=C(C=C1)COC1=CC=CC=C1)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C26H24N2O5
reactant | Dess-Martin periodinane | 0.408 mmol, 173 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 109 mg, 91% | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C26H22N2O5
